US08530133B2
4,4′-((5-(4-(5-(bis(4-hydroxy-3-methylphenyl)methyl)bicyclo[2.2.1]heptan-2-yl)phenyl) bicyclo[2.2.1]heptan-2-yl)methylene)bis(2-methylphenol) (PP719)
1,4-Diiodobenzene (7.51 g; 22.8 mmol), (tris-o-tolylphosphine)2PdCl2 (0.713 g, 0.907 mmol), 4,4′-(bicyclo[2.2.1]hept-5-en-2-ylmethylene)bis(2-methylphenol) (21.8 g; 68.0 mmol) and DMF (100 mL) were weighed and charged to an appropriately sized reaction vessel equipped with stirring and a reflux condenser and placed under a nitrogen atmosphere. Triethylamine (19.0 mL, 136 mmol) and formic acid (4.40 mL, 117 mmol) were then added with stirring to this mixture. The mixture was heated to 75° C. using an oil bath. During the course of heating the mixture changed from yellow to orange and became clear. The temperature of the reaction mixture rose to 119° C. due to the exotherm of the reaction and the solution became darker, with gas evolution. The reaction mixture was allowed to stir overnight (16 hours) at 75° C. in the oil bath. The reaction mixture obtained was a clear yellow solution with black palladium particles present. The reaction mixture was diluted with ethyl acetate (100 ml) and filtered through a silica gel plug. The filtrate was washed with water and the organic layer obtained was dried over anhydrous MgSO4. The crude mixture was purified with medium pressure column chromatography and the eluting solution was gradually changed from 100% hexanes to 100% ethyl acetate. This separation resulted in the isolation of 9.5 g of the PP719 (60% yield; 95% purity). The identity of the product was confirmed by as PP719 by LC-MS (ES1) and proton NMR.

reactant | 1,4-Diiodobenzene | 22.8 mmol, 7.51 g | IC1=CC=C(C=C1)I | C6H4I2
reactant | 4,4′-(bicyclo[2.2.1]hept-5-en-2-ylmethylene)bis(2-methylphenol) | 68.0 mmol, 21.8 g | C12C(CC(C=C1)C2)C(C2=CC(=C(C=C2)O)C)C2=CC(=C(C=C2)O)C | C22H24O2
reactant | Triethylamine | 136 mmol, 19.0 mL | C(C)N(CC)CC | C6H15N
reactant | formic acid | 117 mmol, 4.40 mL | C(=O)O | CH2O2
reactant | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium | [Pd] | Pd
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | 4,4′-((5-(4-(5-(bis(4-hydroxy-3-methylphenyl)methyl)bicyclo[2.2.1]heptan-2-yl)phenyl) bicyclo[2.2.1]heptan-2-yl)methylene)bis(2-methylphenol) | 60% yield | OC1=C(C=C(C=C1)C(C1C2CC(C(C1)C2)C2=CC=C(C=C2)C2C1CC(C(C2)C1)C(C1=CC(=C(C=C1)O)C)C1=CC(=C(C=C1)O)C)C1=CC(=C(C=C1)O)C)C | C50H54O4
